US09315521B2
6-methyl-2-sulfanylpyrimidin-4-ol (522 mg, 3.7 mmol) was dissolved in anhydrous DMF (20 mL), then were added potassium carbonate (1.52 g, 11.0 mmol) and 3-(bromomethyl)-2-methylimidazo[1,2-a]pyridine (5.5 mmol) in DMF (10 mL). The mixture was stirred overnight at room temperature. The solid was removed by filtration washed with methanol, and the filtrate was evaporated. The residue was dissolved in DCM/MeOH and purified on silica gel using 4-12% DCM/MeOH to afford 6-methyl-2-[({2-methylimidazo[1,2-a]pyridin-3-yl}methyl)sulfanyl]pyrimidin-4-ol (165 mg, 16% yield); 1H NMR (400 MHz, DMSO-d6): δ 2.23 (s, 3H), 2.42 (s, 3H), 4.84 (s, 2H), 6.01 (s, 1H), 6.94 (dt, J=6.8 Hz, J=1.4 Hz, 1H), 7.21-7.26 (m, 1H), 7.47 (td, J=9.0 Hz, J=1.0 Hz, 1H), 8.43 (td, J=6.8 Hz, J=1.2 Hz, 1H); LRMS (ES) m/z 287 (80%, M+1).

reactant | 6-methyl-2-sulfanylpyrimidin-4-ol | 3.7 mmol, 522 mg | CC1=CC(=NC(=N1)S)O | C5H6N2OS
reactant | potassium carbonate | 11.0 mmol, 1.52 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3-(bromomethyl)-2-methylimidazo[1,2-a]pyridine | 5.5 mmol | BrCC1=C(N=C2N1C=CC=C2)C | C9H9BrN2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 6-methyl-2-[({2-methylimidazo[1,2-a]pyridin-3-yl}methyl)sulfanyl]pyrimidin-4-ol | 165 mg, 16% yield | CC1=CC(=NC(=N1)SCC1=C(N=C2N1C=CC=C2)C)O | C14H14N4OS
